US08044052B2
N-(Pyridin-3-yl)-4-(1-(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)ethylidene)piperidine-1-carboxamide
To a solution of phenyl pyridin-3-ylcarbamate (120 mg, 0.562 mmol) in DMSO (5 mL) was added 2-(3-(1-(piperidin-4-ylidene)ethyl)phenoxy)-5-(trifluoromethyl)pyridine trifluoroacetate (260 mg, 0.516 mmol), followed by triethylamine (0.16 mL, 1.12 mmol). The reaction was stirred at 60° C. overnight. Water was added and the mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography (0-5% MeOH/CH2Cl2) to give the title compound (161 mg, 61% yield) as a clear oil which formed a foam under high vacuum. MS (APCI 10V) AP+ 469.18; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.99 (s, 3H) 2.31 (t, 2H) 2.50 (t, 2H) 3.40 (t, 2H) 3.61 (t, 2H) 6.63 (br. s., 1H) 6.89 (t, 1H) 6.97-7.04 (m, 3H) 7.17-7.22 (m, 1H) 7.37 (t, 1H) 7.89 (dd, 1H) 7.96 (dd, 1H) 8.23 (dd, 1H) 8.41 (dd, 2H).

reactant | phenyl pyridin-3-ylcarbamate | 0.562 mmol, 120 mg | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | 2-(3-(1-(piperidin-4-ylidene)ethyl)phenoxy)-5-(trifluoromethyl)pyridine trifluoroacetate | 0.516 mmol, 260 mg | FC(C(=O)O)(F)F.N1CCC(CC1)=C(C)C=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1
reactant | triethylamine | 1.12 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | N-(Pyridin-3-yl)-4-(1-(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)ethylidene)piperidine-1-carboxamide | 161 mg, 61% yield | N1=CC(=CC=C1)NC(=O)N1CCC(CC1)=C(C)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C25H23F3N4O2
